US08957203B2
Step 4: Preparation of 1-chloro-7-fluoro-6-methoxyisoquinoline
A solution of 7-fluoro-6-methoxyisoquinolin-1(2H)-one (3.1 g, 16.05 mmol) in POCl3 (25 ml) was refluxed for 18 h. The solvent was evaporated under reduced pressure and the residue was diluted with cold water. The aqueous solution was basified by solid sodium carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure to get crude compound. The crude compound was purified by silica gel chromatography (20% ethyl acetate in pet ether) to get desired compound (1.9 g, 55%) as off-white solid. 1H NMR (400 MHz, CDCl3): δ ppm 8.22-8.20 (d, J=8 Hz, 1H), 7.97-7.94 (m, 1H), 7.49-7.48 (m, 1H), 7.18-7.16 (d, J=8 Hz, 1H), 4.04 (s, 3H); MS: MS m/z 211.7 (M++1).

reactant | 7-fluoro-6-methoxyisoquinolin-1(2H)-one | 16.05 mmol, 3.1 g | FC1=C(C=C2C=CNC(C2=C1)=O)OC | C10H8FNO2
reactant | POCl3 | 25 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-7-fluoro-6-methoxyisoquinoline | 1.9 g, 55% | ClC1=NC=CC2=CC(=C(C=C12)F)OC | C10H7ClFNO
